US20010056123A1
Step 6: Synthesis of 3-[2-(t-butoxycarbonylamino)ethoxy]-4-iodobenzonitrile:
18.5 g (82.6 mmol) of t-butyl (2-bromoethyl)carbamate was dissolved in 200 ml of DMF. 10.1 g (41.3 mmol) of 3-hydroxy-4-iodobenzonitrile and 5.7 g (41.3 mmol) of potassium carbonate were added to the obtained solution, and they were stirred at 75° C. for 3 hours. After the treatment with ethyl acetate as the extraction solvent in an ordinary manner, the title compound was obtained.

reactant | t-butyl (2-bromoethyl)carbamate | 82.6 mmol, 18.5 g | BrCCNC(OC(C)(C)C)=O | C7H14BrNO2
reactant | 3-hydroxy-4-iodobenzonitrile | 41.3 mmol, 10.1 g | OC=1C=C(C#N)C=CC1I | C7H4INO
reactant | potassium carbonate | 41.3 mmol, 5.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | 3-[2-(t-butoxycarbonylamino)ethoxy]-4-iodobenzonitrile | C(C)(C)(C)OC(=O)NCCOC=1C=C(C#N)C=CC1I | C14H17IN2O3
